data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1(C=CC=C[C+:22]1C)C(C)C.[F-:10]>>[H:20][F:10].C[C:22]1=[C:21](C=CC=C1)C(C)C 10=20;20,21=21,22
C[OH:10].C=CC1=CC=C(C=C1)[C:20](=[OH+:21])O.OS(=O)(=O)[O-]>>C[OH+:10][C:20](C1=CC=C(C=C1)C=C)(O)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]C(C)CCC1CCCC1.[O-:10]S(=O)Cl.CC(CCC1CCCC1)Cl>>[H:20][O:10]S(=O)Cl.CC(CCC1CCCC1)[OH:21].CC(CCC1CCCC1)Cl 10=20;20,21=21
CCC1=CC(=C(C(=C1)C)[S+:21]2C[CH:20]2C)C.[NH3:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>CCC1=CC(=C(C(=C1)C)[S:21]C[CH:20](C)[NH3+:10])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
C1C[C:20]2(C(C3C1CCN3CCS(=O)C4=CC=CC=C4)C5=C([NH:10]2)C=CC=C5)[NH3+:21].CC(=O)[O-].O>>C1C[C:20]2=[NH+:10]C3=C(C2C4C1CCN4CCS(=O)C5=CC=CC=C5)C=CC=C3.[NH3:21].CC(=O)[O-].O 10=20;20,21=21
C[S+:21]1C[CH2:20]1.[Cl-:10]>>C[S:21]C[CH2:20][Cl:10] 10=20;20,21=21
[H:20][C:21](C1=CC=CC=C1)([C:22](=[O:23])C)C(C)(CC2=CC=CC=C2)O.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[C:21](C1=CC=CC=C1)C(C)(CC2=CC=CC=C2)O)[O-:23] 10=20;22,23=23;20,21=21,22
C[C+]=C[Si:20](C)(C)C.C[O:10][Cu-]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Cu-] 10=20,
CCC(C)C(C(=O)NC)NC(=O)[O:21][CH2:20][C-:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1>>CCC(C)C(C(=O)NC)NC(=O)[O-:21].[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1 10=20;20,21=21
[H:20][Cl:21].CC1CC([CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CC([C+:11]1C2=CC=CC=C2)C)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
CC(C)C(C(=O)NC)NC(=O)[O:21][CH2:20][C-:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1>>CC(C)C(C(=O)NC)NC(=O)[O-:21].[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1 10=20;20,21=21
[H:20][C:21]12CNC(CC1=CC=C([CH+:22]2)O)C(=O)O.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].C1C(NC[C:21]2=[CH:22]C(=CC=C21)O)C(=O)O.CO.[Cl-] 10=20;20,21=21,22
CC(C)O[Al:20](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4(C(=O)C)OC(=O)C)C)C)OC(C)C.C1CCC(=[O:10])CC1.CC(C)O.CC(C)[O-]>>CC(C)O[Al-:20](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4(C(=O)C)OC(=O)C)C)C)(OC(C)C)[O+:10]=C5CCCCC5.CC(C)O.CC(C)[O-] 10=20,
[BH3-][OH+:21][CH2:20][OH:10]>>[BH3-][OH:21].[CH2:20]=[OH+:10] 10=20;20,21=21
C1CCC2[CH:20](C1)[I+:21]2.[I-:10]>>C1CCC([CH:20](C1)[I:10])[I:21] 10=20;20,21=21
[H:20][OH2+:21].CCC1CC(=[N:10]C2=CC=CC=C12)O>>[H:20][N+:10]1=C(CC(C2=CC=CC=C21)CC)O.[OH2:21] 10=20;20,21=21
[H:20][O+:21](CCN(C)CCCl)C1C(C(C(C(C1C(C)CC)CCC)CC)CC)C.CCCC1C(C(C(C(C1C(C)CC)[OH:10])C)CC)CC.[Cl-]>>[H:20][OH+:10]C1C(C(C(C(C1C(C)CC)CCC)CC)CC)C.CCCC1C(C(C(C(C1C(C)CC)[O:21]CCN(C)CCCl)C)CC)CC.[Cl-] 10=20;20,21=21
[H:20][CH2:21][S+](=O)(C)C.[OH-:10]>>[H:20][OH:10].C[S+](=O)(C)[CH2-:21] 10=20;20,21=21
[H:20][C:21](C)(CC)[C+:22](C)CC.[OH2:10]>>CC[C:21](=[C:22](C)CC)C.[H:20][OH2+:10] 10=20;20,21=21,22
[H:20][O:21]CC.C=C[CH2:10][Mg:11]Br>>[H:20][CH2:10]C=C.CC[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
C[OH:10].C1CCO[CH+:20]C1>>C[OH+:10][CH:20]1CCCCO1 10=20,
CNC(=O)/[NH+:21]=[CH:20]/C1=CC=CC=C1.COC(=O)/[CH:10]=[C:11](/C1=CC=CC=C1)\[OH:12].O>>CNC(=O)[NH:21][CH:20](C1=CC=CC=C1)[CH:10]([C:11](=[OH+:12])C2=CC=CC=C2)C(=O)OC.O 10,11=10,20;12=11;20,21=21
CC=[O+][Si:20](C)(C)C.CC(C)(C)[O-:10]>>CC=[O+][Si-:20](C)(C)(C)[O:10]C(C)(C)C 10=20,
C1=CC=C([CH:11]=[CH:10]1)C#N.[N+:20](=O)=[O:21]>>C1=C[CH:10]([CH+:11]C(=C1)C#N)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][N:21]1C(COC1=O)CC2=CC=CC=C2.[Li:11][CH2:10]CCC>>[H:20][CH2:10]CCC.[Li+:11].C1C([N-:21]C(=O)O1)CC2=CC=CC=C2 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(C)([NH3+])[O-:10].C(=O)[O-]>>[H:20][O:10]C(C)(CCC(=O)C1=CC(=CC(=C1)C2=CC=C(N2)C)C(=O)CCC(=O)C)[NH3+].CC(=O)[O-:21].C(=O)[O-] 10=20;20,21=21
CCC(CCC[NH:10]C(=O)CCl)(CCC1=CC2=C(N1)C=CC=C2)[CH:20]=[OH+:21].C(=O)(C(F)(F)F)[O-].O>>CCC1(CCC[NH+:10]([CH:20]1[OH:21])C(=O)CCl)CCC2=CC3=C(N2)C=CC=C3.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
C1=CC=C(C=C1)C(=O)[CH2:20][Br:21].C1=C[N:10]=CN1>>C1=CC=C(C=C1)C(=O)[CH2:20][N+:10]2=CNC=C2.[Br-:21] 10=20;20,21=21
[H:20][CH:21]([CH2:22][N+:23]1(C2CCC(C2)C1C(=O)OC)[O-:10])C#N.C1=CC(=CC(=C1)C(=O)O)Cl>>[H:20][O:10][N:23]1C2CCC(C2)C1C(=O)OC.[CH2:22]=[CH:21]C#N.C1=CC(=CC(=C1)C(=O)O)Cl 10=20;22,23=23;20,21=21,22
C(C[OH:10])C(=O)Cl.[O:21]=[S:20](Cl)Cl>>C(C[OH+:10][S:20]([O-:21])(Cl)Cl)C(=O)Cl 10=20;20,21=21
CCN[C:20](CC#N)([NH2+:21]C)[OH:10]>>CCN[C:20](=[OH+:10])CC#N.C[NH2:21] 10=20;20,21=21
C1CN(CC[NH:10]1)C2=CC=C(C=C2)C(=O)C=CC3=CC=C(C=C3)Cl.C1=CC(=CC=C1[S:20](=O)(=[O:21])Cl)Cl.C(=O)([O-])[O-].[K+]>>C1CN(CC[NH+:10]1[S:20](=O)(C2=CC=C(C=C2)Cl)([O-:21])Cl)C3=CC=C(C=C3)C(=O)C=CC4=CC=C(C=C4)Cl.C(=O)([O-])[O-].[K+] 10=20;20,21=21
[B-](OC(CC1C[C+:20](CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)[CH2:10][Si-:11](C)(C)(C)[O+](CC)CC)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F>>[B-](OC(CC1C[C:20](=[CH2:10])CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F.CC[O+](CC)[Si:11](C)(C)C 10,11=10,20
